US04720500
The procedure is analogous to that described in Example 24, but starting with 2-amino-7-(2-chlorophenyl)-1,8-naphthyridine (2 g) and benzoic anhydride (4 g). The product obtained after precipitation with ethyl ether (1.2 g; m.p. 153°-155° C.) is dissolved in boiling acetonitrile (30 cc). After cooling for 2 hours at 4° C., the crystallized solvent is separated by filtration, washed with acetonitrile (2×2 cc) and dried at 40° C. under reduced pressure (0.07 kPa). N-[7-(2-Chlorophenyl)-1,8-naphthyridin-2-yl]benzamide (0.8 g), m.p. 156° C., is obtained.

reactant | 2-amino-7-(2-chlorophenyl)-1,8-naphthyridine | 2 g | NC1=NC2=NC(=CC=C2C=C1)C1=C(C=CC=C1)Cl | C14H10ClN3
reactant | benzoic anhydride | 4 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
product | N-[7-(2-Chlorophenyl)-1,8-naphthyridin-2-yl]benzamide | 0.8 g | ClC1=C(C=CC=C1)C1=CC=C2C=CC(=NC2=N1)NC(C1=CC=CC=C1)=O | C21H14ClN3O
